US04963553
4,5-Dihydro-6-methyl-7-[3-(trifluoromethyl)phenyl]-4-[[4[[3-(trifluoromethyl)phenyl]methyl]1-piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, hydrochloride
A mixture of 1.83 g of 4-(chloroacetyl)-7-[3(trifluoromethyl)phenyl]-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, 1.5 g of 3(trifluoromethyl)benzylpiperazine, 2 g of potassium carbonate and 60 ml of toluene was reacted as described in Example 16, giving the base form of the product, which was converted to the hydrochloride salt by the procedure of Example 97, giving 1.78 g, mp 195°-198°.

reactant | 4-(chloroacetyl)-7-[3(trifluoromethyl)phenyl]-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1.83 g | ClCC(=O)N1C=2N(C(=C(C1)C)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C17H12ClF3N4O
reactant | 3(trifluoromethyl)benzylpiperazine | 1.5 g | FC(C=1C=C(CN2CCNCC2)C=CC1)(F)F | C12H15F3N2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dihydro-6-methyl-7-[3-(trifluoromethyl)phenyl]-4-[[4[[3-(trifluoromethyl)phenyl]methyl]1-piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, hydrochloride | Cl.CC=1CN(C=2N(C1C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N)C(CN2CCN(CC2)CC2=CC(=CC=C2)C(F)(F)F)=O | InChI=1S/C29H26F6N6O.ClH/c1-19-16-40(27-22(14-36)15-37-41(27)26(19)21-5-3-7-24(13-21)29(33,34)35)25(42)18-39-10-8-38(9-11-39)17-20-4-2-6-23(12-20)28(30,31)32;/h2-7,12-13,15H,8-11,16-18H2,1H3;1H
